US07790770B2
A slurry of (S)-2-azido-1-phenyl-2,2-bis(3-(trifluoromethoxy)phenyl)ethanol (64 mg, 0.132 mmol) and 10% Pd on C (40 mg) in methanol (2 mL) was subjected to balloon hydrogenation overnight at rt. The reaction mixture was filtered through celite and the filtrate was concentrated to give (S)-2-amino-1-phenyl-2,2-bis(3-(trifluoromethoxy)phenyl)ethanol as a light yellow oil (53 mg, 87% yield). HPLC: RT=3.40 min (Phenomenex Luna C18 5 u column, eluting with 10-90% MeOH/H2O containing 0.1% phosphoric acid over a 4 minute gradient, monitoring at 220 nm). LCMS: [M+H] 458.1 (Phenomenex Luna C18 column, 4.6×30 mm eluting with 10-90% MeOH/H2O over 2 minutes containing 0.1% TFA; 5 mL/min, monitoring at 220 nm).

reactant | (S)-2-azido-1-phenyl-2,2-bis(3-(trifluoromethoxy)phenyl)ethanol | 0.132 mmol, 64 mg | N(=[N+]=[N-])C([C@@H](O)C1=CC=CC=C1)(C1=CC(=CC=C1)OC(F)(F)F)C1=CC(=CC=C1)OC(F)(F)F | C22H15F6N3O3
solvent | methanol | 2 mL | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | (S)-2-amino-1-phenyl-2,2-bis(3-(trifluoromethoxy)phenyl)ethanol | 53 mg, 87% yield | NC([C@@H](O)C1=CC=CC=C1)(C1=CC(=CC=C1)OC(F)(F)F)C1=CC(=CC=C1)OC(F)(F)F | C22H17F6NO3
